US05736548
A mixture of 3-fluorobenzonitrile (18 ml, 168.38 mmol), imidazole (11.46 g), K2CO3 (25.59 g), copper (1.75 g), potassium iodide (1.75 g) and DMF (125 ml) was refluxed overnight. The reaction mixture was cooled to room temperature and poured into ice/water (600 ml). A precipitate formed, which was collected by filtration, washed with water, dissolved in ethanol (25 ml)/CHCl3 (500 ml) and filtered. The filtrates were partitioned in water, the organic layer was separated, dried over MgSO4 and stripped. The residue was combined with the product from another experimental run and was recrystallized from CHCl3 /hexanes to afford 13.4 g of 3-(1-imidazolyl)benzonitrile.

reactant | 3-fluorobenzonitrile | 168.38 mmol, 18 ml | FC=1C=C(C#N)C=CC1 | C7H4FN
reactant | imidazole | 11.46 g | N1C=NC=C1 | C3H4N2
reactant | K2CO3 | 25.59 g | C(=O)([O-])[O-].[K+].[K+]
reactant | potassium iodide | 1.75 g | [I-].[K+]
catalyst | copper | 1.75 g | [Cu] | Cu
solvent | DMF | 125 ml | CN(C)C=O | C3H7NO
product | 3-(1-imidazolyl)benzonitrile | 13.4 g | N1(C=NC=C1)C=1C=C(C#N)C=CC1 | C10H7N3
